US05922558
Thioxanthene, 9.1 g, was dissolved in 100 mL of dry THF. The solution was cooled in an ice bath and n-BuLi (24 mL of 2.5M solution) was added dropwise. The red solution was stirred at room temperature for one hour. Powdered CO2 was added (ca. 150 g) causing formation of a white precipitate. After stirring an additional hour the mixture was evaporated and the residue dissolved in water. The aqueous solution was extracted with CH2Cl2, and neutralized with HCl. The precipitated product was dissolved in ether, dried and evaporated producing thioxanthene-9-carboxylic acid as a white solid (8.8 g): 1H NMR (DMSO-d6) δ 5.25 (s, 1H), 7.30 (m, 4H), 7.49 (m, 4H), 12.60 (s, 1H).

reactant | Thioxanthene | C1=CC=CC=2SC3=CC=CC=C3CC12 | C13H10S
reactant | n-BuLi | 2.5M, 24 mL | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | thioxanthene-9-carboxylic acid | 8.8 g | C1=CC=CC=2SC3=CC=CC=C3C(C12)C(=O)O | C14H10O2S
